US07511050B2
Step A: 2-(4-methoxyphenyl)-N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]acetohydrazide
The mixture of (2E)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone (0.30 g, 1.3 mmol), benzeneacetic acid, 4-methoxy-(0.23 g, 1.4 mmol), benzotriazol-1-yloxytris-(dimethylamino)phosphonium hexafluorophosphate (0.62 g, 1.40 mmol) and triethylamine (0.53 mL, 3.8 mmol) in DMF (10 mL) were stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed sat. NaHCO3. The aqueous was extracted with ethyl acetate (3×). The combined organic layers were dried (MgSO4), filtered and concentrated to yield the desired product (560 mg, 98%). LCMS calculated for C19H25N6O3(M+H): 385.2; found: 385.2.

reactant | (2E)-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 2-hydrazone | 1.3 mmol, 0.30 g | C(CCCC)N1/C(/NC(C=2NC=NC12)=O)=N/N | C10H16N6O
reactant | benzeneacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | benzotriazol-1-yloxytris-(dimethylamino)phosphonium hexafluorophosphate | 1.40 mmol, 0.62 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 3.8 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-methoxyphenyl)-N′-[(2E)-6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene]acetohydrazide | 560 mg, 98% | COC1=CC=C(C=C1)CC(=O)N/N=C/1\NC(C=2NC=NC2N1CCCCC)=O | C19H24N6O3
